US07183276B2
To a mixture of 4-(4-chlorophenyl)-2-phenyl-5-oxazolepropionic acid (500 mg), triethylamine (230 mg) and tetrahydrofuran (10 ml) was added ethyl chlorocarbonate (250 mg) at −40° C., and the mixture was stirred for 1 hr. Diethyl 4-aminophenylphosphonate (420 mg) was added, and the mixture was stirred at room temperature for 5 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography and 3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]-N-[4-(diethylphosphono)phenyl]propionamide (295 mg, yield 36%) was obtained as colorless prism crystals from a fraction eluted with ethyl acetate-chloroform (1:1, volume ratio). melting point: 139–140° C. (recrystallized from dichloromethane-isopropyl ether).

reactant | 4-(4-chlorophenyl)-2-phenyl-5-oxazolepropionic acid | 500 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)C1=CC=CC=C1 | C18H14ClNO3
reactant | triethylamine | 230 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 250 mg | C(OCC)(=O)Cl | C3H5ClO2
reactant | Diethyl 4-aminophenylphosphonate | 420 mg | NC1=CC=C(C=C1)P(OCC)(OCC)=O | C10H16NO3P
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]-N-[4-(diethylphosphono)phenyl]propionamide | 295 mg, yield 36% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)NC1=CC=C(C=C1)P(=O)(OCC)OCC)C1=CC=CC=C1 | C28H28ClN2O5P
